US07759337B2
Synthesis of 6-bromo-N-(2-(dimethylamino)ethyl)phthalazin-1-amine
6-Bromo-1-chlorophthalazine (0.22 g, 0.91 mmol) was dissolved in N,N-dimethylformamide (3 mL) and potassium carbonate (0.25 g, 1.81 mmol) and N1,N1-dimethylethane-1,2-diamine (0.20 mL, 1.81 mmol) was added. The reaction mixture was heated to 80° C. for 5 h, cooled to ambient temperature and stirred for 16 h. The reaction mixture was diluted with 20 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3x with 20 mL of sodium bicarbonate (saturated, aqueous) and once with aqueous brine, separated, dried over sodium sulfate, and concentrated via rotovap to give crude product. The crude was purified by chromatography to obtain the title compound. Found MS (ES+): 295(M+H)+.

reactant | 6-Bromo-1-chlorophthalazine | 0.91 mmol, 0.22 g | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | potassium carbonate | 1.81 mmol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | N1,N1-dimethylethane-1,2-diamine | 1.81 mmol, 0.20 mL | CN(CCN)C | C4H12N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-N-(2-(dimethylamino)ethyl)phthalazin-1-amine | BrC=1C=C2C=NN=C(C2=CC1)NCCN(C)C | C12H15BrN4
